* Prob 4: Ladder
* EXPECTED TRUTH:
* i1 (i(v_sense_i1)) = 3.200000
* i2 (i(v_sense_i2)) = 1.200000
* i3 (i(v_sense_i3)) = 0.400000
* v1 (v(2))  = 20.0000
* v2 (v(3))  = 8.0000
* v3 (v(4))  = 4.0000

V1 1 0 DC 52
R1 1 1_sense 10
V_sense_i1 1_sense 2 DC 0
R2 2 0 10

R3 2 2_sense 10
V_sense_i2 2_sense 3 DC 0
R4 3 0 10

R5 3 3_sense 10
V_sense_i3 3_sense 4 DC 0
R6 4 0 10

.op
.print op v(2) v(3) v(4) i(v_sense_i1) i(v_sense_i2) i(v_sense_i3)
.end
