* Prob 4: Ladder
* EXPECTED TRUTH:
* i1 (i(v_sense_i1)) = 0.108661
* i2 (i(v_sense_i2)) = 0.036323
* i3 (i(v_sense_i3)) = 0.034465
* v1 (v(2))  = 72.3386
* v2 (v(3))  = 36.0157
* v3 (v(4))  = 1.5509

V1 1 0 DC 181
R1 1 1_sense 1000
V_sense_i1 1_sense 2 DC 0
R2 2 0 1000

R3 2 2_sense 1000
V_sense_i2 2_sense 3 DC 0
R4 3 0 19384

R5 3 3_sense 1000
V_sense_i3 3_sense 4 DC 0
R6 4 0 45

.op
.print op v(2) v(3) v(4) i(v_sense_i1) i(v_sense_i2) i(v_sense_i3)
.end
